US06362334B1
1 3-Fluoro-4-morpholinylaniline
3,4-Difluoronitrobenzene (25.196 g, 158.38 mmol) is added to a mixture of morpholine (60.0 ml, 688 mmol, 4.34 eq) in THF (30 ml) at −14°. The mixture is permitted to warm to 10° then maintained at 10-13° for 1 hr. A mixture of citric acid monohydrate (75 g, 357 mmol, 2.25 eq) in water (365 ml) is added with concomitant exotherm to 28°. The phases are separated and the aqueous phase is washed with toluene (95 ml). The organic phase is washed with water (315 ml) and concentrated under reduced pressure. Toluene (46 ml) and methanol (60 ml) are added followed by palladium on Carbon (5%, 50% water wet, 3.1603 g, 0.7426 mmol, 0.00469 eq) and the mixture sealed in a Parr shaker. Hydrogen pressure (40 psi) is applied and maintained while agitating for 42 min. The catalyst is then removed by filtration under reduced pressure and washed with toluene (60 ml). Heptane (150 ml) is added to the filtrate and the resultant slurry concentrated under reduced pressure. Heptane (300 ml) is added and the precipitate collected by filtration under reduced pressure and washed with heptane and dried to give the title compound, HPLC (stationary phase is 4.6×250 mm zorbax RX C-8 column; mobile phase is acetonitrile (650 ml), triethylamine (1.85 ml) and acetic acid (1.30 ml) and water of sufficient amount to make 1,000 ml; flow rate=3.0 ml/min; UV detection at 254 nm) RT=1.08 min, >99.3 area); NMR (Pyridine-D5) 2.95-2.98, 3.80-3.83, 5.38, 6.68, 6.78 and 6.90 δ; CMR (Pyridine-D5) 52.43, 67.33, 103.31, 110.63, 121.29, 130.80, 146.23 and 157.72 δ.

reactant | 3,4-Difluoronitrobenzene | 158.38 mmol, 25.196 g | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
reactant | morpholine | 688 mmol, 60.0 ml, 4.34 eq | N1CCOCC1 | C4H9NO
reactant | citric acid monohydrate | 357 mmol, 75 g, 2.25 eq | O.C(CC(O)(C(=O)O)CC(=O)O)(=O)O
reactant | Hydrogen | [H][H] | H2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | water | 365 ml | O | H2O
catalyst | palladium on Carbon | 0.7426 mmol, 3.1603 g, 0.00469 eq | [Pd] | Pd
product | 3-Fluoro-4-morpholinylaniline | FC=1C=C(N)C=CC1N1CCOCC1 | C10H13FN2O
